US09290506B2
To a stirred solution of (2R)-bis(3,5-bis(trifluoromethyl)phenyl)(pyrrolidin-2-yl)methanol ((R)-33, 1.051 g, 2.0 mmol) and triethylamine (TEA, 1.68 mL, 12.0 mmol, 6.0 equiv) in anhydrous methylene chloride (5.0 mL, 78 mmol) at 0° C. was added tert-butyldimethylsilyl trifluoromethanesulfonate (TBDMSOTf, 1.41 mL, 6.0 mmol, 3.0 equiv). The resulting reaction mixture was stirred at room temperature for 20 h before being heated at 100° C. for 10-20 h. When LCMS showed the reaction was deemed complete, the reaction mixture was quenched with water (30 mL) and extracted with EtOAc (2×50 mL). The combined organic layers were washed with brine, dried over magnesium sulfate (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by Combiflash (SiO2) with 0-10% EtOAc/hexane gradient elution to give (2R)-2-(bis[3,5-bis(trifluoromethyl)phenyl][tert-butyl(dimethyl)silyl]oxymethyl)pyrrolidine ((R)-36, 1.167 g, 1.279 g theoretical, 91.2% yield) as a very viscous colorless syrup. For (R)-36: 1H NMR (CDCl3, 400 MHz) δ ppm 8.09 (s, 2H), 7.87 (s, 2H), 7.75 (s, 2H), 4.33 (m, 1H), 2.98 (m, 1H), 2.54 (m, 1H), 1.86 (m, 1H), 1.70 (m, 1H), 1.56 (m, 2H), 0.95 (s, 9H), −0.21 (s, 3H), −0.45 (s, 3H); C27H29F12NOSi (MW, 639.59), LCMS (D) m/e 640.4 (M++H).

reactant | (2R)-bis(3,5-bis(trifluoromethyl)phenyl)(pyrrolidin-2-yl)methanol | 2.0 mmol, 1.051 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(O)([C@@H]1NCCC1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)(F)F | C21H15F12NO
reactant | triethylamine | 12.0 mmol, 1.68 mL, 6.0 equiv | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 78 mmol, 5.0 mL | C(Cl)Cl | CH2Cl2
reactant | tert-butyldimethylsilyl trifluoromethanesulfonate | 6.0 mmol, 1.41 mL, 3.0 equiv | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
product | (2R)-2-(bis[3,5-bis(trifluoromethyl)phenyl][tert-butyl(dimethyl)silyl]oxymethyl)pyrrolidine | 91.2% yield | FC(C=1C=C(C=C(C1)C(F)(F)F)C([C@@H]1NCCC1)(O[Si](C)(C)C(C)(C)C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)(F)F | C27H29F12NOSi
